US05627177
A suspension of 4-aminoindole (2.30 g, 0.017 moles), bischloroethylamine hydrochloride (3.49 g, 0.02 moles) and potassium carbonate (5.41 g, 0.02 moles) in butanol (50 ml) was heated at reflux under argon for 7 h. Further bischloroethylamine hydrochloride (0.70 g, 0.04 moles) and potassium carbonate (1.1 g 0.04 moles) was added, then the suspension was heated at reflux for 18 h. The solvent was evaporated in vacuo to give a brown gummy residue which was taken up into dilute hydrochloric acid (200 ml), washed with ethyl acetate (2×100 ml), made basic with potassium carbonate, extracted into dichloromethane (3×50 ml), dried (MgSO4) then evaporated in vacuo to give a white solid which was triturated with ethyl acetate and dried to give 4-(1-piperazinyl)indole (0.78 g, 0.0038 moles) as white crystals.

reactant | 4-aminoindole | 0.017 moles, 2.30 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | bischloroethylamine hydrochloride | 0.02 moles, 3.49 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 0.02 moles, 5.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | bischloroethylamine hydrochloride | 0.04 moles, 0.70 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 0.04 moles, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | butanol | 50 ml | C(CCC)O | C4H10O
product | 4-(1-piperazinyl)indole | 0.0038 moles, 0.78 g | N1(CCNCC1)C1=C2C=CNC2=CC=C1 | C12H15N3
